US06713483B1
a) (1R-trans)-N-[2-(3,4-Difluorophenyl)cyclopropyl]acetamide
Acetic anhydride (0.31 ml) was added to a suspension of (1R-trans)-2-(3,4-difluorophenyl)cyclopropanamine, (R-(R*,R*)]-2,3-dihydroxybutanedioate (1:1) (prepared as described in International Patent Application WO 9905143) (700 mg) and potassium carbonate (1.0 g) in tetrahydrofuran (20 ml) and stirred for 20 h. Saturated ammonium chloride solution was added and the mixture was extracted with ether and the organic layers were dried (MgSO4) and evaporated to afford the sub-title compound (470 mg).

reactant | Acetic anhydride | 0.31 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | (1R-trans)-2-(3,4-difluorophenyl)cyclopropanamine | FC=1C=C(C=CC1F)[C@H]1[C@@H](C1)N | C9H9F2N
reactant | 2,3-dihydroxybutanedioate | 700 mg | OC(C(=O)[O-])C(C(=O)[O-])O
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (1R-trans)-N-[2-(3,4-Difluorophenyl)cyclopropyl]acetamide | 470 mg | FC=1C=C(C=CC1F)[C@H]1[C@@H](C1)NC(C)=O | C11H11F2NO
